US07932282B2
A mixture of 3-methyl-2-oxo-1-(2-pyrimidinyl)-4-imidazolidinecarboxylic acid TFA salt (168 mg, 0.5 mmol), 1-hydroxybenzotriazole hydrate (101 mg, 0.75 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (144 mg, 0.75 mmol) and N-ethyl morpholine (0.316 ml, 2.5 mmol) in dichloromethane (8 ml) was stirred at room temperature for 10 minutes. A solution of [1-(2,4-dichlorophenyl)methyl]amine (0.067 ml, 0.5 mmol) in dichloromethane (2 ml) was added and the reaction stirred at room temp for 4 hours. The mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate, The organic phase was separated, washed with water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-1-(2-pyrimidinyl)-4-imidazolidinecarboxamide (20 mg, 10.5% yield). LC/MS [M+H]+=380, retention time=2.22 minutes.

reactant | 3-methyl-2-oxo-1-(2-pyrimidinyl)-4-imidazolidinecarboxylic acid TFA salt | 0.5 mmol, 168 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C1=NC=CC=N1)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.75 mmol, 101 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 2.5 mmol, 0.316 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [1-(2,4-dichlorophenyl)methyl]amine | 0.5 mmol, 0.067 ml | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-1-(2-pyrimidinyl)-4-imidazolidinecarboxamide | 20 mg, 10.5% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C1=NC=CC=N1)=O)C | C16H15Cl2N5O2
